2122-09-20 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Sats lingering in 70-80's ovrnight on BIPAP
   Gave dose lasix 20IV with good urine output though sats did not improve
   Given persistent hypoxemia started heparin gtt
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-20**] 12:11 AM
   Furosemide (Lasix) - [**2122-9-20**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-20**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 112 (100 - 114) bpm
   BP: 116/57(72) {111/57(72) - 151/100(110)} mmHg
   RR: 28 (20 - 36) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  480 mL
   PO:
                  480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    770 mL
                                                                  2,310 mL
   Urine:
                                                                    770 mL
                                                                  2,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                 -1,830 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 88%
   ABG: 7.35/72/65/35/10
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   197 K/uL
   11.0 g/dL
   133 mg/dL
   0.7 mg/dL
   35 mEq/L
   5.0 mEq/L
   11 mg/dL
   96 mEq/L
   138 mEq/L
   39.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2122-9-19**]  08:18 PM
                             [**2122-9-20**]  01:30 AM
                             [**2122-9-20**]  04:06 AM
                             [**2122-9-20**]  05:28 AM
   WBC
   7.2
   Hct
   39.0
   Plt
   197
   Cr
   0.7
   TCO2
   42
   43
   41
   Glucose
   133
   Other labs: PT / PTT / INR:13.2//1.1, D-dimer:654 ng/mL, Ca++:9.3
   mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O ACIDOSIS, RESPIRATORY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   #. SOB/Hypoxemia: Worsening over past several weeks. No improvement on
   low dose prednisone taper. Had not been using inhalers as regularly as
   PCP [**Name Initial (PRE) 1454**]. Possible infiltrate vs soft tissue in RLL on CXR. Also
   reports feeling chest tightness. Likely PNA vs reactive airway disease.
   Possibility for PE though would expect symptoms to be more acute in
   onset. Ddimer borderline elevated and sinus tach, though this may be
   secondary to nebs. Unable to perform CTA or VQ for further evaluation
   given pts body habitus. Will further evaluate in AM with dopplers, but
   will not start anticoagulation at thi time unless pt acutely
   decompensates. Other diagnoses to consider would be pulmonary edema.
   Has known pulm htn but no evidence of right heart failure on exam.
   - Repeat CXR in AM (PA/Lat if possible)
   - Obtain sputum for culture
   - Continue levaquin for abx coverage
   - prednisone 60mg PO daily for possible asthma exacerbation
   - monitor fever curve and wbc count
   - Goal O2 sat 89-93 to prevent hypoventilation
   - LENI's in AM for further evaluation of possible DVT
   - BNP to eval for pulm edema
   - recheck ABG to confirm no worsening in ph and CO2 retention
   #.Acute on Chronic respiratory acidosis: Prior records indicate C02
   lingers around 70-90. ABG notable for pH of 7.33/76/88 which is within
   prior range.
   - repeat ABG
   #. Obstructive sleep apnea - Nasal CPAP of 8cmH2O every night.
   .
   #. Reactive airway disease on home O2 - treatment as above
   .
   #. Pulmonary Hypertension - etiology likely secondary to OSA as
   well as possibly secondary to chronic pulmonary embolism.
   Titrate O2 as above, CPAP as above.
   .
   #. FEN: Heart Healthy low Na diet when tolerated.
   .
   #. Ppx: Coumadin, no PPI indicated
   .
   #. Code: FULL
   .
   #. CONTACT: [**Name (NI) **]# [**0-0-**] ([**Name2 (NI) **]r [**Name (NI) 4407**] and Sister
   [**Doctor First Name 1040**]
   .
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2122-09-20 08:32:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shortness of breath/hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42yo F with morbid obesity, OSA, COPD v. asthma, presumptive PE in the
   past treated with coumadin, presumed obesity hypoventilation syndrome;
   had increasing SOB, s/p treatment with azithromycin without
   improvment.  Now admitted with hypoxemia and hypercarbia (likely
   chronic), on BiPAP.
   24 Hour Events:
   Events: hypoxemia improved with BiPAP overnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-20**] 12:11 AM
   Furosemide (Lasix) - [**2122-9-20**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-20**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 105 (100 - 114) bpm
   BP: 115/64(75) {111/57(72) - 151/100(110)} mmHg
   RR: 26 (20 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  480 mL
   PO:
                  480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    770 mL
                                                                  3,310 mL
   Urine:
                                                                    770 mL
                                                                  3,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                 -2,830 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 453 (453 - 453) mL
   RR (Spontaneous): 35
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.35/72/65/35/10
   Ve: 10.5 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout), no
   wheezing
   Extremities: brawny LE w/chronic skin changes
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person/place/time, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   197 K/uL
   133 mg/dL
   0.7 mg/dL
   35 mEq/L
   5.0 mEq/L
   11 mg/dL
   96 mEq/L
   138 mEq/L
   39.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2122-9-19**]  08:18 PM
                             [**2122-9-20**]  01:30 AM
                             [**2122-9-20**]  04:06 AM
                             [**2122-9-20**]  05:28 AM
   WBC
   7.2
   Hct
   39.0
   Plt
   197
   Cr
   0.7
   TCO2
   42
   43
   41
   Glucose
   133
   Other labs: PT / PTT / INR:13.2//1.1, D-dimer:654 ng/mL, Ca++:9.3
   mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 HYPOXEMIA/DYSPNEA
   - empiric heparin for ? PE
   - will inquire about ability for definitive scan, ? open CT scanner
   - LENIs this morning
   - continue BIPAP ventilation
   - empiric levofloxacin
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   - repeat TTE to assess for RV strain, chronic RV failure
 .H/O ACIDOSIS, RESPIRATORY
   - likely chronic, may have acute component
   - likely multifactorial (hypoventilation, etc)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ? ACUTE EXACERBATION
   - no signs of bronchospasm this morning
   - steroid taper
 DISPO
   - will obtain prior records
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   22 Gauge - [**2122-9-20**] 07:51 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2122-09-21 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-20**]
   - dopplers of LE limited, but negative for DVT
   - on BIPAP while asleep
   - echo pending
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2122-9-20**] 11:50 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-20**] 11:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 95 (91 - 108) bpm
   BP: 126/70(84) {106/42(54) - 165/83(104)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,633 mL
                                                                    178 mL
   PO:
                                                                  1,480 mL
             TF:
   IVF:
                                                                  1,153 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  6,900 mL
                                                                  1,165 mL
   Urine:
                                                                  6,900 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,267 mL
                                                                   -987 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 400 (400 - 678) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 86%
   ABG: ///38/
   Ve: 3.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   222 K/uL
   10.1 g/dL
   119 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.5 mEq/L
   12 mg/dL
   96 mEq/L
   142 mEq/L
   36.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2122-9-19**]  08:18 PM
                             [**2122-9-20**]  01:30 AM
                             [**2122-9-20**]  04:06 AM
                             [**2122-9-20**]  05:28 AM
                             [**2122-9-21**]  04:39 AM
   WBC
   7.2
   7.5
   Hct
   39.0
   36.4
   Plt
   197
   222
   Cr
   0.7
   0.7
   TCO2
   42
   43
   41
   Glucose
   133
   119
   Other labs: PT / PTT / INR:14.3/115.2/1.2, D-dimer:654 ng/mL, Ca++:9.1
   mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 PULMONARY EMBOLISM (PE), ACUTE
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O ACIDOSIS, RESPIRATORY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   #. SOB/Hypoxemia: Occurred over several weeks. No improvement with
   steriods and inhalers at home. Possible infiltrate vs soft tissue in
   RLL on CXR. Likely PNA vs reactive airway disease. Possibility for PE
   due to hx and elevated ddimer and sinus tach. Unable to perform CTA or
   VQ due to body habitus. Was placed on heparin gtt.  [**Month (only) 60**] also have
   pulmonary edema. Has known pulm htn but no recent echo, BNP was 989.
   Did well on BIPAP while asleep.
   - Repeat CXR
   - f/u sputum cx
   - Continue levaquin for abx coverage
   - solumedrol IV 60 Qday for 3 day course (on day 2)
   - monitor fever curve and wbc count
   - Goal O2 sat 89-93 to prevent hypoventilation
   - hold off on more lasix for now
   - continue BIPAP as needed
   - continue heparin gtt for now
   - echo to check on right heart
   #.Acute on Chronic respiratory acidosis: Prior records indicate C02
   lingers around 70-90.  Likely secondary to asthma and body habitus
   - goal sats 92-93%
   - monitor ABGs
   #. Obstructive sleep apnea
   - BIPAP while asleep
   - will need to be estb with a pulmonologist before discharge
   .
   #. Pulmonary Hypertension - etiology likely secondary to OSA as well as
   possibly secondary to chronic pulmonary embolism.
   - Titrate O2 as above
   - BIPAP
   - echo
   .
   #. FEN: NPO while on BIPAP
   .
   #. Ppx: heparin gtt, PPI while on steriods
   .
   #. Code: FULL
   .
   #. CONTACT: [**Name (NI) **]# [**0-0-**] ([**Name2 (NI) **]r [**Name (NI) 4407**] and Sister
   [**Doctor First Name 1040**]
   .
   DISPO: ICU for now
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   22 Gauge - [**2122-9-20**] 07:51 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   :
   Communication:  Comments:
   Code status:  full
   Disposition: ICU for now

2122-09-21 10:37:00 Physician Attending Progress Note
Chief Complaint: morbid obesity, OSA, SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Respiratory status stable on bipap with sleep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2122-9-20**] 11:50 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-9-20**] 11:50 AM
   Other medications:
   Asa, colace, ipratropium q6, heparin iv, protonix, levaquin, solumedrol
   60 iv daily, advair.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-21**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 93 (91 - 108) bpm
   BP: 117/69(80) {103/42(54) - 165/91(104)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,633 mL
                                                                    223 mL
   PO:
                                                                  1,480 mL
             TF:
   IVF:
                                                                  1,153 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  6,900 mL
                                                                  1,315 mL
   Urine:
                                                                  6,900 mL
                                                                  1,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,267 mL
                                                                 -1,092 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Other
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 400 (400 - 678) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 95%
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: ///38/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, with hyperpigmentation
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   222 K/uL
   119 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.5 mEq/L
   12 mg/dL
   96 mEq/L
   142 mEq/L
   36.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2122-9-19**]  08:18 PM
                             [**2122-9-20**]  01:30 AM
                             [**2122-9-20**]  04:06 AM
                             [**2122-9-20**]  05:28 AM
                             [**2122-9-21**]  04:39 AM
   WBC
   7.2
   7.5
   Hct
   39.0
   36.4
   Plt
   197
   222
   Cr
   0.7
   0.7
   TCO2
   42
   43
   41
   Glucose
   133
   119
   Other labs: PT / PTT / INR:14.3/115.2/1.2, D-dimer:654 ng/mL, Ca++:9.1
   mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: difficult due to evaluate to soft tissue artifact, also
   left hemithorax incompletely imaged.
   Assessment and Plan
 H/O OBSTRUCTIVE SLEEP APNEA (OSA):
   Continue bipap tolerating this, wean FiO2 as tolerated, will obtain
   formal sleep study to titrate settings, will attempt to transition to
   Bipap from ventilator.
 PULMONARY EMBOLISM (PE), ACUTE:
   cannot rule this out by Ct or V/Q, will transition to coumadin, and
   when more stable warrant trip to Tuft's large scnner for CT r/o PE.
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   ? Right ventricular failure, follow up echo, with autodiuresis now
   since admission, continue to monitor this, goal -1-2L , and replete K
   and chloride to prevent metabolic alkalosis
 H/O ACIDOSIS, RESPIRATORY:
   chronic hypoventilation, admission ABG without acute component.
   Continue bipap.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   ?asthma, complete 3 day course of solumedrol, continue advair, and
   nebulizers
   ICU Care
   Nutrition:
   Comments: start po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   22 Gauge - [**2122-9-20**] 07:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2122-9-21**] 16:04 ------

2122-09-22 09:02:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Echo with moderate TR, RV hypokinesis, PASP+RA 32. Blood cultures iwth
   corynebacterium [**1-11**], repeat blood cultures sent. This am c/w chest
   tightness, sats 88% on 95% HF, EKG stable, improved on bipap and s/p
   nebs.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2122-9-20**] 11:50 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Other medications:
   asa 81, colace, ipratropium neb, heparin iv, coumadin, protonix,
   levofloxacin 750 iv q24, methylprednisolone  60 daily.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: chest tightness, denies SOB
   Flowsheet Data as of  [**2122-9-22**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 92 (87 - 104) bpm
   BP: 125/69(80) {100/54(66) - 134/81(91)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,096 mL
                                                                    569 mL
   PO:
                                                                    600 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    496 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  4,595 mL
                                                                  1,640 mL
   Urine:
                                                                  4,595 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,499 mL
                                                                 -1,071 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 732 (732 - 732) mL
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 91%
   ABG: ///43/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   205 K/uL
   94 mg/dL
   0.6 mg/dL
   43 mEq/L
   4.2 mEq/L
   9 mg/dL
   91 mEq/L
   139 mEq/L
   37.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2122-9-19**]  08:18 PM
                             [**2122-9-20**]  01:30 AM
                             [**2122-9-20**]  04:06 AM
                             [**2122-9-20**]  05:28 AM
                             [**2122-9-21**]  04:39 AM
                             [**2122-9-22**]  03:15 AM
   WBC
   7.2
   7.5
   6.9
   Hct
   39.0
   36.4
   37.1
   Plt
   197
   222
   205
   Cr
   0.7
   0.7
   0.6
   TCO2
   42
   43
   41
   Glucose
   133
   119
   94
   Other labs: PT / PTT / INR:13.4/72.6/1.1, D-dimer:654 ng/mL, Ca++:9.1
   mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Imaging: no CXR today
   Microbiology: Blood culture with diphtheroids yesterday repeat pending.
   ECG: unchanged, Sinus at 95
   Assessment and Plan
 H/O OBSTRUCTIVE SLEEP APNEA (OSA)/OHS:
   Continue Bipap with sleep and nocturnally. Tolerated autoset overnight
   well. Decrease O2 suppelementation with goal sat 88-92%
 PULMONARY EMBOLISM (PE), ACUTE
   Cannot rule this out,. On heparin to coumadin bridge.
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   Has RV hypokinesis, and moderate TR, autodiuresing now on O2 likely her
   PA pressures decreased with blunting of hypoxic vasoconstriction on
   high O2 supplementation and  this improved to left flow. Continue to
   monitor I/O.
 H/O ACIDOSIS, RESPIRATORY:
   stable on prior gas.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION/asthma:
   completes steroids today, continue advair and nebs.
   ICU Care
   Nutrition: Po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   22 Gauge - [**2122-9-20**] 07:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2122-09-24 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PM ABG 7.37/92/77
   - titrated to NC while awake and bipap while asleep
   - has bed at radius rehab for Thursday
   - was -2.4 liters at midnight, so ordered 1 liter at 250ml/hr
   - Has Cl wasting in setting of metabolic alkalosis, have KCl 40mEQ x 2
   days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2122-9-23**] 12:05 PM
   Infusions:
   Heparin Sodium - 2,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-24**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 93 (88 - 105) bpm
   BP: 113/64(74) {112/62(73) - 119/76(84)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 239.1 kg (admission): 248 kg
             Total In:
                                                                  1,559 mL
                                                                  1,309 mL
   PO:
                                                                    950 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    609 mL
                                                                  1,159 mL
   Blood products:
   Total out:
                                                                  4,025 mL
                                                                  2,395 mL
   Urine:
                                                                  4,025 mL
                                                                  2,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,466 mL
                                                                 -1,086 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 90%
   ABG: 7.37/91.[**Numeric Identifier 96**]/77/42/22
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   191 K/uL
   10.7 g/dL
   95 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.0 mEq/L
   8 mg/dL
   95 mEq/L
   144 mEq/L
   37.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2122-9-20**]  05:28 AM
                             [**2122-9-21**]  04:39 AM
                             [**2122-9-22**]  03:15 AM
                             [**2122-9-22**]  06:35 AM
                             [**2122-9-22**]  11:50 AM
                             [**2122-9-22**]  01:07 PM
                             [**2122-9-22**]  03:40 PM
                             [**2122-9-23**]  05:00 AM
                             [**2122-9-23**]  03:15 PM
                             [**2122-9-24**]  04:34 AM
   WBC
   7.5
   6.9
   5.5
   6.1
   Hct
   36.4
   37.1
   38.2
   37.6
   Plt
   222
   205
   201
   191
   Cr
   0.7
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   41
   56
   50
   47
   55
   Glucose
   119
   94
   99
   95
   Other labs: PT / PTT / INR:14.8/49.6/1.3, CK / CKMB /
   Troponin-T:38//<0.01, D-dimer:654 ng/mL, Lactic Acid:0.9 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   [**9-22**] BCx x 1 pending
   Assessment and Plan
   42 yo F with PMH of COPD, OSA, super obesity here with shortness of
   breath and increasing O2 requirement.
   # SOB/Hypoxemia: Occurred over several weeks with no improvement on
   steriods and inhalers at home. Possible infiltrate vs soft tissue in
   RLL on CXR. Likely PNA vs reactive airway disease. Possibility for PE
   due to hx and elevated d-dimer and sinus tach. Unable to perform CTA or
   VQ due to body habitus. LENI's without DVT. ECHO notable for LVH and RV
   hypokinesis. Worsening hypoxia on [**9-22**] due to leak in BIPAP system,
   improved ABG once corrected.
   - continue heparin gtt empirically, bridging  to coumadin (continue
   coumadin 10 mg daily
 INR 1.3)
   - d/c levofloxacin after dose today (5 day course)
   - biPAP when sleeping with NC while awake
   - I/O goal even or negative if autodiuresing
   - continue RTC nebs, advair
   - goal sats 88-92%
   - wean O2
   - check ABGs
   - Holding lasix
   #. Pulmonary Hypertension - etiology likely secondary to OSA as well as
   possibly secondary to chronic pulmonary embolism. Mild on repeat ECHO
   may be secondary to new RV hypokinesis and TR.
   - Titrate O2 as above
   - BIPAP
   - continue to keep negative
   - anticoagulation with heparin gtt/coumadin
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   22 Gauge - [**2122-9-20**] 07:51 AM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer: PPI
   Contact: [**Name (NI) **]# [**0-0-**] ([**Name2 (NI) **]r [**Name (NI) 4407**] and Sister [**Doctor First Name 1040**]
   [**Name2 (NI) 66**] status: full
   Disposition: [**Hospital 258**] Rehab today follow up with sleep clinic
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2122-9-24**] 12:03 ------

2122-09-24 09:55:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2122-9-23**] 12:05 PM
   Infusions:
   Heparin Sodium - 2,450 units/hour
   Other ICU medications:
   Other medications:
   colace, levofloxacin, advair, coumadin, ipratropium nebs, K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-24**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 98 (88 - 105) bpm
   BP: 113/64(74) {112/63(74) - 119/76(84)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 239.1 kg (admission): 248 kg
             Total In:
                                                                  1,559 mL
                                                                  1,350 mL
   PO:
                                                                    950 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    609 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  4,025 mL
                                                                  2,595 mL
   Urine:
                                                                  4,025 mL
                                                                  2,595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,466 mL
                                                                 -1,245 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   FiO2: 15L bleeder vis Bipap
   SpO2: 91%
   ABG: 7.39/77/67/42/16
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bilaterally)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, woody edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   191 K/uL
   95 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.0 mEq/L
   8 mg/dL
   95 mEq/L
   144 mEq/L
   37.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2122-9-21**]  04:39 AM
                             [**2122-9-22**]  03:15 AM
                             [**2122-9-22**]  06:35 AM
                             [**2122-9-22**]  11:50 AM
                             [**2122-9-22**]  01:07 PM
                             [**2122-9-22**]  03:40 PM
                             [**2122-9-23**]  05:00 AM
                             [**2122-9-23**]  03:15 PM
                             [**2122-9-24**]  04:34 AM
                             [**2122-9-24**]  08:03 AM
   WBC
   7.5
   6.9
   5.5
   6.1
   Hct
   36.4
   37.1
   38.2
   37.6
   Plt
   222
   205
   201
   191
   Cr
   0.7
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   56
   50
   47
   55
   48
   Glucose
   119
   94
   99
   95
   Other labs: PT / PTT / INR:14.8/49.6/1.3, CK / CKMB /
   Troponin-T:38//<0.01, D-dimer:654 ng/mL, Lactic Acid:0.9 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 H/O OBSTRUCTIVE SLEEP APNEA (OSA)
   continue autoset with sleep.
 PULMONARY EMBOLISM (PE), ACUTE
   heparin drip to coumadin
 PULMONARY HYPERTENSION (PULM HTN, PHTN):
   Continuing to autodiurese, replete KCL.
H/O ACIDOSIS, RESPIRATORY
   stabilized
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   s/p steroid course continue inhalers., Completes levofloxacin today.
   ICU Care
   Nutrition:
   Comments: po diet.
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-9-19**] 10:48 PM
   22 Gauge - [**2122-9-20**] 07:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: communication with patient
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility after
   discussion with case mangement as patient prefers [**Hospital1 82**] over Radium.
   Total time spent: 30 minutes